US05543298
2-(3,4-Dimethoxybenzylidene)-6-methoxy-1-tetralone
6-Methoxy-1-tetralone (7.04 g, 40 mmol) and 3,4-dimethoxybenzaldehyde (6.44 g, 40 mmol) are mixed with 100 ml of absolute ethanol. The mixture is stirred for 0.5 h to dissolve as much as possible of the reagents. The introduction of gaseous hydrogen chloride is commenced. An exothermic reaction is noted which enables the complete dissolution of all of the reagents. The round-bottomed flask is cooled from time to time with an ice bath so that the temperature does not exceed 80° C. The mixture is thus saturated with hydrogen chloride after 1 h to give an intense red color. This mixture is allowed to stand at room temperature for 2 h. The reaction mixture is poured into a mixture of 400 ml of water and 40 ml of aqueous NaOH (3N). It is stirred vigorously for 3 h at room temperature. The precipitated solid is filtered over a glass frit, washed with water and finally dried under vacuum, over P2O5, to give a solid (12.35 g, 95%). A small quantity of product is recrystallized from the mixture AcOEt/hexane=1:2.

reactant | 6-Methoxy-1-tetralone | 40 mmol, 7.04 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 3,4-dimethoxybenzaldehyde | 40 mmol, 6.44 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | hydrogen chloride | Cl | ClH
reactant | NaOH | 3N, 40 ml | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(3,4-Dimethoxybenzylidene)-6-methoxy-1-tetralone | 12.35 g, 95% | COC=1C=C(C=C2C(C3=CC=C(C=C3CC2)OC)=O)C=CC1OC | C20H20O4
